Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is an ___ year old ___ speaking male with medical 
history including atrial fibrillation on warfarin, CAD s/p CABG, 
Chronic CHF who presents to the hospital with concern for two 
episodes of altered mental status today. History is obtained 
from patient via a ___ speaking translator as well as OMR.
    In brief, the patient was in his usual state of health until 
this a.m., prior to breakfast, when he was noted to make 
incomprehensible sounds during which time his whole body was 
noted to be shaking although it is noted by Neurology that the 
patient was able to understand his wife during this event. The 
patient eventually returned to baseline after 30 minutes without 
intervention. The remainder of the patient's day was uneventful 
until after the patient went to sleep at 7pm. Around 9pm the 
patient again was noted to be be making incomprehensible sounds 
with shaking movements and rolling side to side. EMS was 
eventually called and the patient was reported to be waving his 
arms, oriented x 1 with a finger stick of 37 on the scene. The 
patient received D50 with subsequent blood sugar of 212. Per 
discussion with the patient's daughter, he improved after 
receiving the dextrose. The patient was sent to the hospital for 
further evaluation. Of note, OMR review reveals the patient had 
a very similar episode in ___ with a finger stick in the ___ at 
that time. The patient had a normal insulin level at that time 
(unclear if drawn at time of hypoglycemia) and an ultrasound was 
ordered which was limited. The patient more recently in ___bd/pelvis (not a pancreas protocol) without note of any 
mass lesions. Per discussion with the patient's daughter, the 
patient received his medications from his wife. His wife is 
herself a diabetic but she has been doing this for years and 
believes there is minimal chance that he accidentally received 
one of her medications. His wife is on ___ and an 
additional medication she cannot remember.
   ED Course: 97.7, 158/65, 70, 18, 98% RA, blood sugar 212. In 
the ED the patient had a chest film and Head CT which were 
negative for acute pathology. The patient was seen by neurology 
with question of TIA with impression that symptoms were more 
likely related to toxic/metabolic insult that ischemia. 
Recommendation was made for repeat Head CT tomorrow to rule out 
interval change and obtain carotid ultrasounds. While in the ED 
the patient was noted to develop blood sugar of 60 for which he 
was started on fluids with Dextrose prior to transfer.
    On arrival to the floor above history confirmed with 
patient's daughter. The patient is currently without any 
complaint, all ROS negative including difficulty speaking, 
visual changes, lightheadedness, vertigo, motor deficits.
 
Past Medical History:
#. Tension headache
#. Benign Essential Tremor
#. ? Alzheimer's Dementia
#. CAD s/p CABG
#. Chronic Diastolic CHF, EF 60%
#. Sick sinus s/p PPM
- comlpicated by pacer infection ___ with note of 
significant cognitive problems since that prolonged 
hospitalization0
#. Paroxysmal atrial fibrillation
- on coumadin
#. Peripheral vascular disease
#. s/p aorto-iliac bypass
#. Chronic kidney disease
#. Dyslipidemia
#. Hypertension
#. Colonic adenoma
#. s/p cholecystectomy
#. Anemia
#. Benign prostatic hypertrophy
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Vitals: 96.5, 116/62, 60, 16, 100% RA
General: Patient is an elderly male, appears to be in no 
distress, appropriate
HEENT: NCAT, EOMI, scler anicteric
Neck: JVP 6cm
ChestL CTA anterior and posterior
Cor: RRR, no M/R/G
Abd: Obese, soft, non-tender. No palpable mass
Ext: No C/C/E. DP 1+ bilaterally
Neuro:
Oriented to person, place, year
CN: II-XII intact
Motor:
      D T B WE FiF ___ IP  Q  H  TA  ___  
Right ___ 5  5    ___  ___  5   5     
Left  ___ 5  5    ___  ___  5   5     
Sensation: Intact to light touch over face, trunk, extremities 
Reflexes: 3+ at patella bilaterally
Cerebellum: Action tremor, no dysmetria 
Gait:  Mildly wide-based, does not step out of stride (with 
assist)
 
Pertinent Results:
___ 01:05PM   CK(CPK)-64
___ 01:05PM   CK-MB-8 cTropnT-0.07*
___ 06:00AM   GLUCOSE-64* UREA N-51* CREAT-2.3* SODIUM-142 
POTASSIUM-4.3 CHLORIDE-108 TOTAL CO2-24 ANION GAP-14
___ 06:00AM   CK-MB-9 cTropnT-0.07*
___ 06:00AM   MAGNESIUM-2.1
___ 06:00AM   %HbA1c-5.2
___ 06:00AM   WBC-5.1 RBC-4.15* HGB-11.0* HCT-33.8* MCV-82 
MCH-26.4* MCHC-32.4 RDW-18.4*
___ 06:00AM   PLT COUNT-123*
___ 12:53AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 12:03AM   GLUCOSE-47* UREA N-54* CREAT-2.4* SODIUM-142 
POTASSIUM-4.2 CHLORIDE-107 TOTAL CO2-22 ANION GAP-17
___ 12:03AM   ALT(SGPT)-15 AST(SGOT)-24 CK(CPK)-80 ALK 
PHOS-90 TOT BILI-0.4
___ 12:03AM   LIPASE-80*
___ 12:03AM   CK-MB-NotDone cTropnT-0.06*
___ 12:03AM   CALCIUM-8.9 PHOSPHATE-3.8 MAGNESIUM-2.1
___ 12:03AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:03AM   WBC-7.8 RBC-4.27* HGB-11.3* HCT-33.8* MCV-79* 
MCH-26.5* MCHC-33.6 RDW-18.9*
___ 12:03AM   PLT COUNT-127*
___ 12:03AM   PLT COUNT-127*
.
Head CT ___:
FINDINGS: There is no evidence of hemorrhage, edema, masses, 
mass effect, or
large area of infarction. The prominent ventricles and sulci, 
representing
diffuse generalized atrophy, but display no interval change. 
There is
periventricular white matter hypodensity, representing chronic 
microvascular
ischemic disease with evidence of lacunar infarcts. There is no 
fracture.
 
There is vascular calcification. Again noted is the bilateral 
maxillary sinus
mucus retention cysts, without interval change.
 
 
IMPRESSION:
1. No intracranial hemorrhage.
2. Chronic small vessel ischemic disease with lacunar infarcts.
3. Unchanged bilateral maxillary sinus mucous retention cysts.
.

Head CT ___:
FINDINGS: There is no evidence of hemorrhage, mass lesion, shift 
of normally
midline structures, hydrocephalus, or infarction. Prominence of 
the lateral
ventricles and sulci are consistent with age-related atrophy. 
Mild confluent
periventricular hypoattenuation is consistent with chronic small 
vessel
ischemia. Small 6-mm hypoattenuation within the left basal 
ganglia is more
apparent than on prior study and consistent with a remote 
lacunar infarction.
Hypoattenuation within the right corona radiata also suggests 
old tiny lacunar
infarction.
 
There is coarse calcification of bilateral cavernous carotid 
arteries. The
extracalvarial soft tissues appear within normal limits. There 
is atelectasis
of the right maxillary sinus with intraluminal soft tissue. 
Lobulated mucosal
thickening is noted within the left maxillary sinus. A 1.3-cm 
mucus retention
cyst is noted within the left sphenoid sinus. The right sphenoid 
sinus is
clear. The frontal sinuses are clear. No evidence of fracture is 
detected
within the osseous structures. The orbital regions appear within 
normal
limits.
 
IMPRESSION:
 
1. No evidence of hemorrhage or recent infarction.
 
2. Old lacunar infarctions as detailed above.
 
3. Chronic sinus disease as detailed above.
 .
CXR:
FINDINGS: Cardiomegaly persists. Upper lobe vascular 
redistribution remains
however no frank edema identified. Median sternotomy wires and 
mediastinal
clips consistent with previous coronary artery bypass grafting. 
Left-sided
pacemaker with dual leads unchanged. There is minimal if any 
pulmonary edema.
No focal consolidation present. Blunting of the costophrenic 
angle suggests a
small right pleural effusion.
 
Degenerative changes in the spine consistent with DISH.
 

 
Brief Hospital Course:
This is an ___ year old male, non-diabetic, who presented with 
altered mental status in setting of documented hypoglycemia.
.
#. Altered Mental Status: Ultimately felt symptoms were due to 
hypoglycemia. The patient presented with relatively non-focal 
neurologic exam and episodes of hypoglycemia which seem to 
coincide with his symptoms. Per daughter's report, patient 
improved with dextrose administration by EMS. Patient seen by 
neurology with impression that symptoms were more likely 
toxic-metabolic that ischemic although completion of ischemia 
evaluation was recommended. CT head was neg x2 (to evaluate for 
evolvement of stroke), UA neg, CXR showed no infiltrate or 
volume overload- management of hypoglycemia as below. He ruled 
out for MI.
.
#. Hypoglycemia: The pt has  a history of similar episode in 
___, normal Insulin level at that time (timing related to 
hypoglycemia not clear), CT Adb/Pelvis in ___ without obvious 
abnormality or evidence of insulinoma. The pt was given D5W in 
the ED, but this was stopped after the pt came to the floor. The 
following morning after admission, fingersticks were ___, and 
post-prandial were 180s.  Endocrine was consulted who felt that 
the differential diagnosis includes unintentional consumption of 
wife's glyburide given that both pt and wife take many 
medications and the wife divides up the medications. 
Differential also includes insulinoma, but less likely. Based on 
endocrine input, it is felt the most likely etiology of pts 
hypoglycemia is pre-diabetes causing hyperinsulinemia based on 
fasting glucose of 150 while here and HgbA1c of 5.2. He likely 
does not clear his insulin fast enough in the setting of chronic 
renal failure. Pts medication container was reviewed and did not 
contain his wife's medications. Endocrine also called pts 
pharmacy and he seems compliant in regularly filling his 
medications. Fingersticks were monitored for over 36 hours, and 
remained stable. He was fasted for 10 hours on day of discharge 
and fingerstick remained above 110. On the pts admission labs 
with a glucose of 48, insulin, sulfonylurea screen, C peptide, 
and beta-hydroxybutyrate levels were sent off and pending at 
discharge (send-outs). It is possible this lab however was drawn 
after the pt had already received glucagon or dextrose and could 
alter the levels of all of these. The pt was asked to check his 
fasting glucose levels for several mornings each week as well as 
2 hours after eating and bring these values with him to his PCP 
and endocrine visits. He was provided with a glucometer. He was 
asked to eat small, frequent meals to prevent hyperinsulinemia 
after eating. The pt was also provided with emergency glucagon 
kit prescription. Dr. ___ of endocrinology at ___ 
will see pt after discharge and their office is to call pt with 
appt.

.
# Hematocrit drop: Hct fell to 28 down from 32-33 on day of 
discharge. Pt has been at hct of ___ in past, as well as from 
___, likely due to fluid fluctuations. Given he was 
supratherapeutic on his coumadin, his hct was trended again 
prior to discharge and was up to 30. He had brown, guaiac neg 
stool in rectal vault. BP and HR were stable. He was given a lab 
slip to have repeat hct in 3 days in f/u with his PCP. PCP was 
notified (Dr. ___ over the phone. 
.
#. Alzheimer's Type Dementia: Continued Aricept, Namenda
.
# L carotid stenosis: 70-79% narrowing. Given age and 
comorbidities, would not recommend CEA. Pt is on statin, unclear 
why not on ASA. Can be discussed as ___. Held ASA while here 
given pt supratherapeutic on coumadin so as not to increase 
bleeding risk.
.
#. Acute on Chronic kidney failure, Stage IV: Creatinine up to 
2.7 on day of discharge from 2.4 day prior. Pt was written for 
lasix 40 mg twice daily, but in his pill box there is only once 
a day dosing. Confirmed with wife that pt is only taking once 
daily lasix. Suspect mild increase in creatinine was due to 
extra lasix given the day prior to discharge. He was asked to go 
back to taking once daily lasix and he was given a lab slip to 
have his creatinine checked upon follow up with his PCP ___ 3 
days. He received 800 cc IVF prior to discharge.
.
#. Alzheimer's Type Dementia - Continued Aricept and namenda
.
#. CAD s/p CABG - Patient with TWI on ECG, stable from previous. 
Indeterminant Trop likely reflection of poor cardiac substrate 
and chronic kidney disease. Continued Statin, BB. Ruled out for 
MI.Held ASA while here given pt supratherapeutic on coumadin so 
as not to increase bleeding risk.
.
#. Chronic Diastolic CHF, EF 60%: Clinically appeared euvolemic. 
Continued BP control, lasix per outpatient regimen (as per 
above, decreased to lasix 40 mg daily as this is what pt has 
been taking over past ___ppeared euvolemic).
.
#. Paroxysmal atrial fibrillation/Supratherapeutic INR:  s/p 
PPM, on coumadin. INR supratherapeutic. Coumadin was held and 
given INR of 3.7 on day of discharge, pt was asked to have INR 
rechecked on f/u with PCP ___ 3 days. Pt was asked not to resume 
coumadin until repeat lab draw at his PCP's office.
.
# # Thrombocytopenia: Plt in the 120s. Pt has had normal plt 
levels in the past, as well as plt levels this low as well. No 
evidence of any offending medications, and other cell counts are 
stable.
-outpatient f/u, continue to monitor
.
#. Hypertension - continued Hydralazine/Imdur, Metoprolol per 
outpatient regimen
.
#. Hyperlipidemia - contined statin

 
Medications on Admission:
Warfarin, 2.5mg daily
Calcitriol 0.25 mcg MWF
Donepezil 10 mg q am
Lasix 40 mg BID
Hydralazine 100 mg TID
Isosorbide mononitrate SR 120 mg daily
Namenda 10 mg BID
Metoprolol 25 mg BID
Zocor 20 mg daily
Aldactone 25 mg daily
Flomax 0.4 mg daily
Vitamin B12 1000 mcg daily

 
Discharge Medications:
1. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO EVERY 
OTHER DAY (Every Other Day).  
2. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
3. Furosemide 40 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Hydralazine 50 mg Tablet Sig: Two (2) Tablet PO TID (3 times 
a day).  
5. Isosorbide Mononitrate 60 mg Tablet Sustained Release 24 hr 
Sig: Two (2) Tablet Sustained Release 24 hr PO DAILY (Daily).  
6. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
7. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily): If you are on lipitor then resume taking lipitor.  
8. Spironolactone 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
10. Cyanocobalamin 500 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
11. Memantine 5 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
12. Glucagon Emergency 1 mg Kit Sig: One (1) injection Injection 
once as needed for low blood glucose : Give for fingerstick less 
than 60 and symptoms unresponsive to food/candy.
Disp:*2 kits* Refills:*1*
13. Outpatient Lab Work
CBC, ___, PTT, INR, sodium, potassium, chloride, bicarbonate, 
BUN, creatinine, and glucose to be drawn on ___
14. ___ Aviva     Strip Sig: One (1) strip In ___ as 
directed.  
15. ___ Multiclix Lancet     Misc Sig: One (1) lancet 
Miscellaneous as directed.
Disp:*100 lancets* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Hypoglycemia
.
Secondary:
Hypertension
Chronic Kidney Disease
Atrial fibrillation
Chronic diastolic heart failure

 
Discharge Condition:
stable, fingersticks stable

 
Discharge Instructions:
You were admitted with complaints of jerky movements, tremors, 
and facial grimacing. You were found to have hypoglycemia (low 
blood sugar), felt to be the cause of your symptoms. Your 
hypoglycemia is thought to be due to pre-diabetes.
.
Your INR was too high, so your coumadin was held. You should not 
take your coumadin until you have your blood levels drawn on 
___ and follow up with Dr. ___. Bring your lab slip with 
you.
.
You should check your fingerstick fasting (before breakfast) and 
2 hours after breakfast several mornings a week, and bring these 
readings with you to Dr. ___ Dr. ___ of 
endocrine at ___.
.
You are being provided with a glucagon pen. This is an injection 
that someone can give you if you are found to have low blood 
sugars again (fingerstick less than 60) and unable to eat. The 
glucagon pen is for emergencies only when you cannot eat with a 
low fingerstick. If your fingerstick is less than 70, you should 
drink juice or eat candy to try to bring your fingerstick up to 
at least ___. If your fingerstick is very low (less than 60) 
or you have symptoms of low blood sugar, you should eat candy 
and sugar, then use the glucagon emergency kit if your 
fingersticks are still low and don't respond to food. (ie 
remains less than 60)
.
You should eat small and frequent meals (5 small meals a day as 
opposed to 3 large meals a day. This is to prevent your sugar 
levels from dropping.
.
You should take your lasix once daily
.
Call your doctor or return to the ER for recurrent shaking, 
fingerstick less than 60 or symptoms from low blood sugar, odd 
facial/bodily movements, confusion, lightheadedness/fainting, 
nausea/vomiting, fevers, palpitations, or any other concerning 
symptoms.
 
Followup Instructions:
___